US04794196
Chlorosulfonic acid (100 g.) was cooled to 0° C. and trifluoroacetanilide (30 g.) was added portionwise with vigorous stirring keeping the temperature below +5° C. The reaction was stirred at room temperature overnight, and cautiously poured onto ice. The white solid produced was filtered, washed copiously with water, and dried to give 4-trifluoroacetamido benzenesulfonyl chloride (39.14 gl)(m.r. 143°-146° C.).

reactant | Chlorosulfonic acid | 100 g | ClS(=O)(=O)O | ClHO3S
reactant | trifluoroacetanilide | 30 g | FC(C(=O)NC1=CC=CC=C1)(F)F | C8H6F3NO
product | 4-trifluoroacetamido benzenesulfonyl chloride | FC(C(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C8H5ClF3NO3S
